US05030654
2-(Carboxymethyl)-3-{1-[(cis-4-ethoxycarbonyl-cyclohexyl)carbamoyl]cyclopentyl}propanoic acid t-butyl ester
2-(Benzyloxycarbonylmethyl)-3-{1-[(cis-4-ethoxycarbonylcyclohexyl)carbamoyl]cyclopentyl}propanoic acid t-butyl ester (3.50 g, 6.45 mmole) was dissolved in tetrahydrofuran (100 ml) and stirred with 5% palladium on carbon catalyst (200 mg) at room temperature under hydrogen at 50 p.s.i. (3.5 bar). After 36 hours the catalyst was removed by filtration and the solvent evaporated to give the product as a colourless oil (2.8 g, 96%). Found: C,63.28; H,8.70; N,3.20. C24H39NO7 requires C,63.55; H,8.67; N,3.09%.

reactant | 2-(Benzyloxycarbonylmethyl)-3-{1-[(cis-4-ethoxycarbonylcyclohexyl)carbamoyl]cyclopentyl}propanoic acid t-butyl ester | 6.45 mmole, 3.50 g | C(C)(C)(C)OC(C(CC1(CCCC1)C(N[C@@H]1CC[C@@H](CC1)C(=O)OCC)=O)CC(=O)OCC1=CC=CC=C1)=O | C31H45NO7
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 2-(Carboxymethyl)-3-{1-[(cis-4-ethoxycarbonyl-cyclohexyl)carbamoyl]cyclopentyl}propanoic acid t-butyl ester | 2.8 g, 96% | C(C)(C)(C)OC(C(CC1(CCCC1)C(N[C@@H]1CC[C@@H](CC1)C(=O)OCC)=O)CC(=O)O)=O | C24H39NO7
